US07476663B2
(b) (2R)-2-Boc-amino-3-methoxy-N-methyl-N-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenyl]-propionic acid-amide
Prepared analogously to Example 1d from (2R)-2-Boc-amino-3-methoxy-propionic acid and 3,N-dimethyl-4-(3-oxo-morpholin-4-yl)-aniline with TBTU and TEA in DMF.

reactant | (2R)-2-Boc-amino-3-methoxy-propionic acid | C(=O)(OC(C)(C)C)[C@](C(=O)O)(COC)N | C9H17NO5
reactant | 3,N-dimethyl-4-(3-oxo-morpholin-4-yl)-aniline | CC=1C=C(NC)C=CC1N1C(COCC1)=O | C12H16N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R)-2-Boc-amino-3-methoxy-N-methyl-N-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenyl]-propionic acid-amide | C(=O)(OC(C)(C)C)[C@](C(=O)N(C1=CC(=C(C=C1)N1C(COCC1)=O)C)C)(COC)N | C21H31N3O6
